US07776869B2
3-Bromo-4-chlorobenzoyl chloride was prepared from 3-bromo-4-chlorobenzoic acid according to the procedure described in Example 183 for the synthesis of 3-bromo-4-fluorobenzoyl chloride.

reactant | 3-bromo-4-chlorobenzoic acid | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | 3-bromo-4-fluorobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
product | 3-Bromo-4-chlorobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1Cl | C7H3BrCl2O
